US07169934B2
(R)-2-(4-Amidinophenylaminomethyl)-1-methyl-5-[1-(carboxymethylamino)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole
3.7 kg (5.49 mol) of (R)-2-(4-amidinophenylaminomethyl)-1-methyl-5-[1-(ethyloxycarbonylmethylamino)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazol-p-toluenesulphonic acid salt are dissolved in 7.4 L of methanol at 40° C. To this solution is added a solution of 0.795 kg (12.8 mol) of potassium hydroxide powder in 5.6 L of methanol und this is then rinsed with 1.8 L of methanol. The mixture is stirred for 2.5 hours at 40° C. The potassium salt of the p-toluenesulphonic acid crystallises out. A solution of 1.37 kg (7.2 mol) of p-toluenesulphonic acid monohydrate in 2.8 L of methanol is added to the suspension, this is rinsed with 1.8 litres of methanol and cooled to 22° C. The precipitated potassium salt of p-toluenesulphonic acid is separated off using a pressure filter and the filter cake is washed with 7.4 litres of methanol. The filtrate is inoculated with the title compound and stirred overnight. The precipitated product is suction filtered under argon, washed with 3.7 L of methanol and recycled into the reactor while still damp. 18.5 L of methanol are added and the suspension is refluxed for one hour and cooled to 22° C. The product is suction filtered under argon, washed with 3.7 L of methanol and dried at 30° C. in a circulating air drier. 2.22 kg (85% of theory) of the title compound are obtained.

reactant | (R)-2-(4-amidinophenylaminomethyl)-1-methyl-5-[1-(ethyloxycarbonylmethylamino)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazol-p-toluenesulphonic acid salt | 5.49 mol, 3.7 kg | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(N)(=N)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)[C@](C)(C(=O)N2CCCC2)NCC(=O)OCC
reactant | potassium hydroxide | 12.8 mol, 0.795 kg | [OH-].[K+]
reactant | p-toluenesulphonic acid monohydrate | 7.2 mol, 1.37 kg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 7.4 L | CO | CH4O
solvent | methanol | 5.6 L | CO | CH4O
solvent | methanol | 2.8 L | CO | CH4O
product | (R)-2-(4-Amidinophenylaminomethyl)-1-methyl-5-[1-(carboxymethylamino)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole | C(N)(=N)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)[C@](C)(C(=O)N2CCCC2)NCC(=O)O | C25H31N7O3
